US08729071B2
To a 0° C. solution of 5-formylpicolinonitrile (490 mg, 3.71 mmol) in 15 mL of MeOH was added NaBH4 (140 mg, 3.71 mmol). The reaction mixture was stirred at 0° C. for 1 h and quenched with 5% citric acid. After most MeOH was removed by concentration, the residue was partitioned between DCM and sat. NaHCO3 (aq.). The aqueous layer was extracted with DCM (10×). The organic layer was washed with brine and dried (Na2SO4). The product 5-(hydroxymethyl)picolinonitrile (431 mg) was obtained by concentration under vacuum.

reactant | 5-formylpicolinonitrile | 3.71 mmol, 490 mg | C(=O)C=1C=CC(=NC1)C#N | C7H4N2O
reactant | NaBH4 | 3.71 mmol, 140 mg | [BH4-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 5-(hydroxymethyl)picolinonitrile | 431 mg | OCC=1C=CC(=NC1)C#N | C7H6N2O
